US03963734
5-Chloro-3-nitro-2-aminopyridine is reacted with 2,2-difluoropropionic anhydride to obtain 5-chloro-3-nitro-2-(2,2-difluoropropionamido)pyridine, which on hydrogenation in the -dicarboxyl- -bis-acid chloride gives the dialdehyde which is reacted with SF4 to obtain 5,6-bis(difluoromethyl)-1-hydroxy-2 presence of palladium on calcium sulfate yield 6-chloro-1-hydroxy-2-(1,1-difluoroethyl)-1H-imidazo(4,5-b)pyridine.

reactant | 5-Chloro-3-nitro-2-aminopyridine | ClC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | 2,2-difluoropropionic anhydride | FC(C(=O)OC(C(C)(F)F)=O)(C)F | C6H6F4O3
product | 5-chloro-3-nitro-2-(2,2-difluoropropionamido)pyridine | ClC=1C=C(C(=NC1)NC(C(C)(F)F)=O)[N+](=O)[O-] | C8H6ClF2N3O3
